US06015868
Preparation of 2-Ethylindene
2-Bromoindene (8.1235 g, 0.04211 moles) and Ni(dppp)Cl2 (0.1536 g, 2.83×10-4 moles) were stirred in diethylether (100 mL) at -78° C. under a nitrogen atmosphere as ethylMgBr (0.045 moles, 15.00 mL of 3.0 M solution in diethylether) was added. The dry-ice bath was then removed and the reaction mixture allowed to warm to room temperature. The reaction mixture started off as a heterogeneous brick-red color and then turned to a homogeneous yellow/gold solution and then back to the heterogeneous brick-red mixture during the course of the warm-up. Gas chromatographic analysis after 2 hours of stirring at room temperature showed that the reaction was substantially quantitative. After the reaction period the mixture was poured onto ice and then extracted with 1 M HCL (1×100 mL) and 1 M NaHCO3 (1×100 mL) and then dried with MgSO4 and filtered. The desired product was isolated as a light yellow oil (5.65 g, 93.1 percent).

reactant | 2-Bromoindene | 0.04211 moles, 8.1235 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | diethylether | 100 mL | C(C)OCC | C4H10O
catalyst | Ni(dppp)Cl2 | 2.83×10-4 moles, 0.1536 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 2-Ethylindene | C(C)C=1CC2=CC=CC=C2C1 | C11H12
